US06448270B1
B) 4-{4-[4-(4-Methyl-benzyl)-piperidin-1-yl]-but-1-ynyl}-phenol
To a solution of 4-(4-methylbenzyl)-1-(1-butyn-3-yl)piperidine (400 mg, 1.66 mmol) and 4-iodophenol (347 mg 1.57 mmol) in 10 mL of butylamine is added 80 mg of Pd(PPh3)4. The resulting solution is allowed to stir at 55° C. for 24 hr. The solvent is evaporated in vacuo and the residue is purified by flash chromatography (20% EtOAc in hexane) to give 150 mg (27%) of the title product as a brown oil. 1H NMR (CDCl3) 1.34 (m, 2 H), 1.50 (m, 1 H), 1.65 (d, J=11.7 Hz, 2 H), 2.08 (t, J=12.0 Hz, 2 H), 2.33 (s, 3 H), 2.47 (d, J=6.9 Hz, 2 H), 2.60 (t, J=7.2 Hz, 2 H), 2.68 (t, J=7.5 Hz, 2 H), 3.02 (d, J=11.1 Hz, 2 H), 3.49 (brs, 1 H), 6.68 (d, J=8.1 Hz, 2 H), 7.01 (d, J=7.5 Hz, 2 H), 7.08 (d, J=7.5 Hz, 2 H), 7.20 (d, J=8.1 Hz, 2 H).

reactant | 4-(4-methylbenzyl)-1-(1-butyn-3-yl)piperidine | 1.66 mmol, 400 mg | CC1=CC=C(CC2CCN(CC2)C(C#C)C)C=C1 | C17H23N
reactant | 4-iodophenol | 1.57 mmol, 347 mg | IC1=CC=C(C=C1)O | C6H5IO
reactant | butylamine | 10 mL | C(CCC)N | C4H11N
catalyst | Pd(PPh3)4 | 80 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-{4-[4-(4-Methyl-benzyl)-piperidin-1-yl]-but-1-ynyl}-phenol | 150 mg, 27% | CC1=CC=C(CC2CCN(CC2)CCC#CC2=CC=C(C=C2)O)C=C1 | C23H27NO
